US05324732
2 g (=0.0069 mole) of tedisamil were dissolved in 5 ml of isopropanol. A solution of 0.53 g of hydrochloric acid in 5 ml of isopropanol was added with stirring to this solution. After the formation of salts, isopropanol was removed by distillation, and the tedisamil dihydrochloride which remained as a residue was recrystallized from acetone and dried at 60° C. in a vacuum drying oven. 2 g of tedisamil dihydrochloride were obtained. DSC gave a melting range with decomposition at 225.7 to 240.4° C. The base:acid ratio determined by titration was 1:2.0. Thermogravimetric analysis showed a 0.2% weight loss on drying.

reactant | tedisamil | 0.0069 mole, 2 g | C1CCC2(C1)C3CN(CC2CN(C3)CC4CC4)CC5CC5 | C19H32N2
reactant | hydrochloric acid | 0.53 g | Cl | ClH
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | tedisamil dihydrochloride | 2 g | C1CCC2(C1)C3CN(CC2CN(C3)CC4CC4)CC5CC5.Cl.Cl | InChI=1S/C19H32N2.2ClH/c1-2-8-19(7-1)17-11-20(9-15-3-4-15)12-18(19)14-21(13-17)10-16-5-6-16;;/h15-18H,1-14H2;2*1H
